US08232289B2
Preparation 41: 2-[(2-Bromo-3-pyridyl)oxy]acetamide
To a solution of 2-bromo-3-pyridinol (1.5 g, 8.49 mmol) in tetrahydrofuran (15 mL) at 0° C. is added 60% sodium hydride in mineral oil (509.44 mg, 12.74 mmol) and the mixture is stirred at that temperature for 30 min. Then acetamide, 2-chloro-(16.98 mmol) is added and the mixture is stirred at room temperature over the weekend. The mixture is quenched with water and extracted with ethyl acetate. The organic layer is separated dried on magnesium sulfate and the solvent evaporated in vacuo to give the title compound in a 75% yield. The compound is used without any further purification. MS (m/z): 231 (M+1), 233 (M+3).

reactant | 2-bromo-3-pyridinol | 8.49 mmol, 1.5 g | BrC1=NC=CC=C1O | C5H4BrNO
reactant | sodium hydride | [H-].[Na+]
reactant | acetamide | C(C)(=O)N | C2H5NO
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | 2-[(2-Bromo-3-pyridyl)oxy]acetamide | 75% yield | BrC1=NC=CC=C1OCC(=O)N | C7H7BrN2O2
